US05061703
B. Preparation of Isopropyl Adamantane (II)
Introduce 0.5 mol of magnesium chips into 50 ml of absolute ether, and drop 0.5 mol of methyl iodide into the solution under moisture-free conditions until the ether boils. Subsequently, heat in a water bath until the magnesium has completely dissolved. Into this solution at room temperature drop 0.2 mol of adamantane methyl carboxylate in absolute ether. Then heat to reflux for 3 hours. After cooling, hydrolize with ice and mix with ammonium chloride solution until the precipitate has dissolved. Separate the ether phase, wash the aqueous phase with 2 portions of ether, and wash the combined organic phases with sodium bicarbonate solution. Then dry and evaporate to dryness under vacuum. (Yield: 93%).

reactant | magnesium | 0.5 mol | [Mg] | Mg
reactant | methyl iodide | 0.5 mol | CI | CH3I
reactant | adamantane methyl carboxylate | 0.2 mol | CC(=O)O.C12CC3CC(CC(C1)C3)C2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | Isopropyl Adamantane | Yield: 93% | C(C)(C)C12CC3CC(CC(C1)C3)C2 | C13H22
